US04196208
Preparation of 1-[4-(Hexadecylamino)benzoyl]imidazole
A solution of 10 g. of 4-(hexadecylamino)benzoic acid, 10 ml. of pyridine and 4.0 g. of t-butylazidoformate in 100 ml. of dioxane is stirred for 18 hours at 20° C. Then 5.4 g. of 1,1'-carbonyldiimidazole is added and stirring continued for 20 hours. The solvents are evaporated to a thick oil which is dissolved in 100 ml. of hot chloroform, to which is added 5 ml. of trifluoroacetic acid. After 30 minutes at 55° C., the cooled solution is neutralized with diisopropylethylamine. The white product is crystallized from acetonitrile.

reactant | 4-(hexadecylamino)benzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | t-butylazidoformate | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[4-(Hexadecylamino)benzoyl]imidazole | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)N2C=NC=C2)C=C1 | C26H41N3O
